US04518613
(1) Preparation of allyl acetyl-carnitine.
To a solution of carnitine hydrochloride (9 grams; 0.045 moles) in 15 cc of trifluoroacetic acid, 0.13 moles of allyl acetyl chloride were added. The resulting solution was kept at 45° C. for 4 hours. Subsequently, acetone was added to the solution, the unreacted carnitine was separated and ethyl ether was added, thus obtaining a precipitate. The raw material thus obtained was purified by precipitation from isopropanol--ethyl ether. 9.5 grams of product were obtained. Yield 66%.

reactant | carnitine hydrochloride | 0.045 moles, 9 grams | Cl.OC(C[N+](C)(C)C)CC([O-])=O
reactant | allyl acetyl chloride | 0.13 moles | C(C=C)CC(=O)Cl | C5H7ClO
reactant | acetone | CC(=O)C | C3H6O
solvent | trifluoroacetic acid | 15 cc | FC(C(=O)O)(F)F | C2HF3O2
product | allyl acetyl-carnitine | 9.5 grams, Yield 66% | C(C=C)C(C(O)(CC([O-])=O)C(C)=O)[N+](C)(C)C | C12H21NO4
